US04939253
(D) N-(t-Butyloxycarbonyl)-4-chloro-DL-threonine
22 grams of 4-Chloro-DL-threonine Was suspended in a mixture of 43 ml of water and 71 ml of t-butanol. By the addition of 2N sodium hydroxide the pH was adjusted to 7.0, 34.3 g di-tert.-butylpyrocarbonate was added and the pH of the mixture was kept at 7.5 for 3 hours with stirring. Workup of the reaction mixture yielded the title compound as a syrup.

reactant | 4-Chloro-DL-threonine | 22 grams | ClCC(C(N)C(=O)O)O | C4H8ClNO3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | di-tert.-butylpyrocarbonate | 34.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 43 ml | O | H2O
solvent | t-butanol | 71 ml | C(C)(C)(C)O | C4H10O
product | N-(t-Butyloxycarbonyl)-4-chloro-DL-threonine | C(C)(C)(C)OC(=O)NC(C(O)CCl)C(=O)O | C9H16ClNO5
